US05807859
To 2 g of 10-acetamido-7-chloro-5H,10H-imidazo[1,2-a]indeno[1,2-e]pyrazin-4-one in 40 ml of anhydrous dimethyl sulphoxide, maintained at 20° C. under a nitrogen atmosphere, is added 0.61 g of 60% sodium hydride and the mixture is stirred for 90 minutes. 0.8 ml of benzyl chloride are then added dropwise and the stirring is continued for 24 hours. The reaction medium is then poured onto 50 ml of ice-water, then acidified using 1N hydrochloric acid (12 ml). The precipitate formed is filtered off, washed with water and then with acetone, and dried. The crude product thus obtained (1.8 g) is taken up in 20 ml of 6N hydrochloric acid and maintained at reflux for 2 hours. The insoluble product is filtered off, washed with water and recrystallized from 45 ml of a mixture of ethanol and water (1/2 by volume) to give 0.31 g of 10-amino-10-benzyl-7-chloro-5H,10H-imidazo-[1,2-a]indeno[1,2-e]pyrazin-4-one dihydrate in the form of a white powder melting at 241° C. (Analysis, C20H19ClN4O3.0.82 HCl, % calculated C: 60.23; H: 4.80;

reactant | 10-acetamido-7-chloro-5H,10H-imidazo[1,2-a]indeno[1,2-e]pyrazin-4-one | 2 g | C(C)(=O)NC1C=2C=CC(=CC2C=2NC(C=3N(C21)C=CN3)=O)Cl | C15H11ClN4O2
reactant | sodium hydride | 0.61 g | [H-].[Na+]
reactant | benzyl chloride | 0.8 ml | C(C1=CC=CC=C1)Cl | C7H7Cl
solvent | dimethyl sulphoxide | 40 ml | CS(=O)C | C2H6OS
solvent | hydrochloric acid | 6N, 20 ml | Cl | ClH
solvent | hydrochloric acid | 1N, 12 ml | Cl | ClH
product | 10-amino-10-benzyl-7-chloro-5H,10H-imidazo-[1,2-a]indeno[1,2-e]pyrazin-4-one dihydrate | 0.31 g | O.O.NC1(C=2C=CC(=CC2C=2NC(C=3N(C21)C=CN3)=O)Cl)CC3=CC=CC=C3 | InChI=1S/C20H15ClN4O.2H2O/c21-13-6-7-15-14(10-13)16-17(25-9-8-23-18(25)19(26)24-16)20(15,22)11-12-4-2-1-3-5-12;;/h1-10H,11,22H2,(H,24,26);2*1H2
